US06506733B1
A solution comprised of tert-butyl(S)-3-diazo-2-oxo-1-phenethylpropylcarbamate (7.09 g, 23.4 mmol) in ether (100 mL) was cooled to −10° C. and a solution comprised of hydrogen bromide/acetic acid (4.66 mL, 30% by weight) in ether (30 mL) was added dropwise. The mixture was stirred for 30 minutes and then ether (200 mL) was added. The mixture was washed with brine (50 mL), saturated aqueous sodium bicarbonate (150 mL), brine (50 mL), dried (MgSO4), filtered, and concentrated. Product was crystallized from hexane, to provide tert-butyl (S)-3-bromo-2-oxo-1-phenethylpropylcarbamate (5.29 g, 14.7 mmol). 1H NMR (CDCl3): δ 1.44 (9H, s, t-Bu), δ 1.86 (1H, m, one CH2CH2C6H5), δ 2.18 (1H, m, other CH2CH2C6H5), δ 2.67 (2H, t, J=7.7 Hz, CH2CH2C6H5), δ 3.99 (2H, 2×d, J=13 Hz, CH2Br), δ 4.53 (1H, m, CHNH), δ 5.08 (1H, br.D, 5 Hz, NH), δ 7.17-7.29 (5H, m, aromatic H).

reactant | tert-butyl(S)-3-diazo-2-oxo-1-phenethylpropylcarbamate | 23.4 mmol, 7.09 g | [N+](=[N-])=CC([C@H](CCC1=CC=CC=C1)NC(OC(C)(C)C)=O)=O | C16H21N3O3
reactant | hydrogen bromide acetic acid | 4.66 mL | Br.C(C)(=O)O
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | ether | 200 mL | CCOCC | C4H10O
product | tert-butyl (S)-3-bromo-2-oxo-1-phenethylpropylcarbamate | 14.7 mmol, 5.29 g | BrCC([C@H](CCC1=CC=CC=C1)NC(OC(C)(C)C)=O)=O | C16H22BrNO3
